US05010189
(b) Isovaleric acid 1-cyclohexyl-3-buten-2(S)-yl ester
1-Cyclohexyl-3-butyn-2(S)-ol is reduced by partial hydrogenation in the presence of Lindlar catalyst to 1-cyclohexyl-3-buten-2(S)-ol and reacted analogously to Example 5 with isovaleric acid chloride.

reactant | 1-Cyclohexyl-3-butyn-2(S)-ol | C1(CCCCC1)C[C@@H](C#C)O | C10H16O
reactant | 1-cyclohexyl-3-buten-2(S)-ol | C1(CCCCC1)C[C@@H](C=C)O | C10H18O
reactant | isovaleric acid chloride | C(CC(C)C)(=O)Cl | C5H9ClO
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | Isovaleric acid 1-cyclohexyl-3-buten-2(S)-yl ester | C1(CCCCC1)C[C@@H](C=C)OC(CC(C)C)=O | C15H26O2
